US06512081B1
Preparation of 4-Cyano-1-Hydroxylpent-4-yl Dithiobenzoate
The 4-cyano-1-hydroxylpent-4-yl dithiobenzoate was prepared by heating a degassed solution of 4,4′-azobis(4-cyano-n-pentanol) and di(thiobenzoyl)disulfide at 70° C. in ethyl acetate for 24 hours. The desired product was isolated in 46% yield.

reactant | 4,4′-azobis(4-cyano-n-pentanol) | N(=NC(CCCO)(C)C#N)C(CCCO)(C)C#N | C12H20N4O2
reactant | di(thiobenzoyl)disulfide | C(C1=CC=CC=C1)(=S)SSC(C1=CC=CC=C1)=S | C14H10S4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Cyano-1-Hydroxylpent-4-yl Dithiobenzoate | C(C1=CC=CC=C1)(=S)SC(CCCO)(C)C#N | C13H15NOS2
